US08378108B2
A mixture of (3-[1,3,4]Oxadiazol-2-yl-phenyl)-carbamic acid benzyl ester (200 mg, 0.68 mmol), cyclopropylamine (0.5 mL, 7.2 mmol), trifluoroacetic acid (0.05 mL, 0.65 mmol) in anhydrous 1-butanol mL) was heated at 110° C. overnight in a sealed tube. The reaction mixture was cooled to room temperature and the solvent was removed. The residue was partitioned between ethyl acetate and saturated sodium bicarbonate solution, and the aqueous phase was extracted with ethyl acetate. Solvent was removed after drying with sodium sulfate and purified by silica gel chromatography (rf=0.26 in 20:1 ethyl acetate/methanol) to obtain [3-(4-Cyclopropyl-4H-[1,2,4]triazol-3-yl)-phenyl]-carbamic acid benzyl ester as a white powder (70 mg, 31%). M+1=335.1

reactant | (3-[1,3,4]Oxadiazol-2-yl-phenyl)-carbamic acid benzyl ester | 0.68 mmol, 200 mg | C(C1=CC=CC=C1)OC(NC1=CC(=CC=C1)C=1OC=NN1)=O | C16H13N3O3
reactant | cyclopropylamine | 7.2 mmol, 0.5 mL | C1(CC1)N | C3H7N
reactant | trifluoroacetic acid | 0.65 mmol, 0.05 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | 1-butanol | C(CCC)O | C4H10O
product | [3-(4-Cyclopropyl-4H-[1,2,4]triazol-3-yl)-phenyl]-carbamic acid benzyl ester | 70 mg, 31% | C(C1=CC=CC=C1)OC(NC1=CC(=CC=C1)C1=NN=CN1C1CC1)=O | C19H18N4O2
